US06211215B1
In substantially the same manner as in Reference Example 47, 3-cyclohexylpropeneamide was allowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-[(E)-2-cyclohexylethenyl]oxazole. The yield was 4.5%. Oily substance.

reactant | 3-cyclohexylpropeneamide | C1(CCCCC1)C=CC(=O)N | C9H15NO
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-[(E)-2-cyclohexylethenyl]oxazole | yield was 4.5% | ClCC=1N=C(OC1)\C=C\C1CCCCC1 | C12H16ClNO
